US07619086B2
Step 1: 1-(4-Fluorobenzyl)-4-(1-nitropropyl)piperidin-2-one
To a solution 1-(4-fluorobenzyl)-5,6-dihydropyridin-2(1H)-one (2.0 g, 10 mmol) in 1-nitropropane (8.68 g, 97.5 mmol) was added DBU (1.48 g, 9.75 mmol). After stirring for 24 hours, the reaction mixture was concentrated under vacuum. The residual material was purified by silica gel column chromatography eluting with 1% methanol in CH2Cl2. The appropriate fractions were combined and concentrated to afford the title compound as mixture of diastereomers. The diastereomers co-eluted with a retention time of 3.01 min. The HPLC method was performed on a Hewlett-Packard Zorbax SB-C8 column (75×4.6 mm, 3.5 micron) eluting with 5%-100% CH3CN (0.1% TFA) in H2O (0.1% TFA). ES MS M+1=295.

reactant | 1-(4-fluorobenzyl)-5,6-dihydropyridin-2(1H)-one | 10 mmol, 2.0 g | FC1=CC=C(CN2C(C=CCC2)=O)C=C1 | C12H12FNO
reactant | 1-nitropropane | 97.5 mmol, 8.68 g | [N+](=O)([O-])CCC | C3H7NO2
reactant | DBU | 9.75 mmol, 1.48 g | C1CCC2=NCCCN2CC1 | C9H16N2
product | 1-(4-Fluorobenzyl)-4-(1-nitropropyl)piperidin-2-one | FC1=CC=C(CN2C(CC(CC2)C(CC)[N+](=O)[O-])=O)C=C1 | C15H19FN2O3
